US04312990
(C) (±)-3-[4-(Aminosulfonyl)phenyl]-4,5-dihydropyrazole-5-carboxylic acid
A mixture of 12.75 g of 5-[4-(aminosulfonyl)phenyl]-4-oxo-2-pentenoic acid, 2.24 g of hydrazine and 3.0 g of KOH in 100 ml of methanol is refluxed for 3 hours, cooled, and 50 ml of methanol is removed in vacuo. Then there is added 50 ml of water and the mixture is acidified with concentrated HCl. The resulting solid is filtered off, washed with water, then ethanol and dried to yield 8.8 g of the title compound, melting point 224°-226° C.

reactant | 5-[4-(aminosulfonyl)phenyl]-4-oxo-2-pentenoic acid | 12.75 g | NS(=O)(=O)C1=CC=C(C=C1)CC(C=CC(=O)O)=O | C11H11NO5S
reactant | hydrazine | 2.24 g | NN | H4N2
reactant | KOH | 3.0 g | [OH-].[K+]
reactant | methanol | 100 ml | CO | CH4O
product | (±)-3-[4-(Aminosulfonyl)phenyl]-4,5-dihydropyrazole-5-carboxylic acid | 8.8 g | NS(=O)(=O)C1=CC=C(C=C1)C1=NNC(C1)C(=O)O | C10H11N3O4S
